US03937833
A mixture of 17.0 g (0.045 mole) of 2,8-bis(4-chlorobutyryl)dibenzofuran, 68.0 g (0.8 mole) of piperidine and 2.0 g of potassium iodide in 500 ml of butanone is heated at reflux for 72 hours then filtered. The filtrate is concentrated to one-half its original volume then diluted with 600 ml of water. The resulting semi-solid is purified by chromatography on neutral alumina using methylene chloride as the eluant. The solvent is removed from the fraction collected leaving a solid residue which is recrystallized from pentane to give 2,8-bis(4-piperidinobutyryl)dibenzofuran, M.P. 70°-71°C.

reactant | 2,8-bis(4-chlorobutyryl)dibenzofuran | 0.045 mole, 17.0 g | ClCCCC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CCCCl)=O)C=C1 | C20H18Cl2O3
reactant | piperidine | 0.8 mole, 68.0 g | N1CCCCC1 | C5H11N
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | butanone | 500 ml | CC(CC)=O | C4H8O
product | 2,8-bis(4-piperidinobutyryl)dibenzofuran | N1(CCCCC1)CCCC(=O)C1=CC2=C(OC3=C2C=C(C=C3)C(CCCN3CCCCC3)=O)C=C1 | C30H38N2O3
